*****************************************************************
* SIEMENS SIPMOS Small Signal Components                        *
* SPICE Library Version 1.0                                     *
*                                                               *
* Models provided by SIEMENS are not warranted by SIEMENS as    *
* fully representing all of the specifications and operating    *
* characteristics of the semiconductor product to which the     *
* model relates. The models describe the characteristics of a   * 
* typical device.                                               * 
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. SIEMENS reserves the right   *
* to change models without prior notice.                        *
*                                                               *
* This library contains the following                           *
* SIEMENS SIPMOS Transistors:                                   *
*                                                               *
*   BS-170       BSP-319       BSS-138      BSS-92_1            *
*   BSP-125      BSP-88        BSS-145      BSS-92              *
*   BSP-149      BSP-89        BSS-229      BSS-98              *
*   BSP-171      BSS-100       BSS-295                          *
*   BSP-295      BSS-101       BSS-296                          *
*   BSP-299      BSS-110       BSS-297                          *
*   BSP-315      BSS-119       BSS-84                           *
*   BSP-316      BSS-125       BSS-87                           *
*   BSP-317      BSS-129       BSS-88                           *
*   BSP-318      BSS-135       BSS-89                           *
*                                                               *
*---------------------------------------------------------------*
* connections:    gate                                          *
*                 | source                                      *
*                 | | drain                                     *
*                 | | |                                         *
*.subckt BS-170   1 2 3                                         *
*---------------------------------------------------------------*
 
 
***********
*SRC=BS-170;BS-170;MOSFETs N;Siemens;60V 300mA 5 Ohm
*SYM=N-MOSFET
.SUBCKT BS-170 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 5.5M
RS 5 76 1117M
D170 76 95 DREV
.MODEL DREV D CJO=0.025N RS=50M TT=30N IS=300P BV=60
M170 86 11 76 76 MBUZ
.MODEL MBUZ NMOS VTO=1.235 KP=0.158
M2 11 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 11 8 8 MSW
COX 11 8 0.09N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.287N M=0.539 VJ=0.985
CGS 76 11 0.03N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-10.7 KP=0.135
LG 4 1 7N
.ENDS
*******
*SRC=BSP-125;BSP-125;MOSFETs N;Siemens;600V 120mA 45 Ohm
*SYM=N-MOSFET
.SUBCKT BSP-125 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 5.5M
RS 5 76 593M
D125 76 95 DREV
.MODEL DREV D CJO=0.025N RS=20M TT=80N IS=300P BV=600
M125 86 11 76 76 MBUZ
.MODEL MBUZ NMOS VTO=1.972 KP=0.185
M2 11 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=1
M3 86 11 8 8 MSW
COX 11 8 0.012N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.012N M=0.409 VJ=0.981
CGS 76 11 0.085N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-18.35 KP=0.00175
LG 4 1 7N
.ENDS
*******
*SRC=BSP-149;BSP-149;MOSFETs N;Depletion;200V 480mA 3.5 Ohm Siemens
*SYM=DEPL-MOS
.SUBCKT BSP-149 1 2 3
LS 5 2 7N
LD 97 3 5N
RG 95 99 5.5M
RS 5 76 578M
D149 76 97 DREV
.MODEL DREV D CJO=0.03N RS=20M TT=35N IS=300P BV=200
M149 98 99 76 76 MBUZ
.MODEL MBUZ NMOS VTO=-1.334 KP=1.022
M2 87 98 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 98 87 8 8 MSW
COX 87 8 0.08N
DGD 8 98 DCGD
.MODEL DCGD D CJO=59P M=0.542 VJ=0.979
CGS 76 99 225P
VGC 87 99 3
MHELP 98 98 97 98 MVRD
.MODEL MVRD NMOS VTO=-16.18 KP=0.34
LG 95 1 7N
.ENDS
*******
*SRC=BSP-171;BSP-171;MOSFETs P;Siemens;60V 1700mA 0.35 Ohm
*SYM=P-MOSFET
.SUBCKT BSP-171 1 2 3
LS 5 2 7N
LD 102 3 5N
RG 4 95 33.1
RS 5 76 92M
D171 102 76 DREV
.MODEL DREV D CJO=1N RS=20M TT=100N IS=300P BV=60
M171 117 95 76 76 MBUZ
.MODEL MBUZ PMOS VTO=-1.582 KP=0.858
M2 11 117 8 8 MSW
.MODEL MSW PMOS VTO=-0.001 KP=.3
M3 117 11 8 8 MSW
COX 11 8 0.5N
DGD 117 8 DCGD
.MODEL DCGD D CJO=758P M=0.635 VJ=1.015
CGS 76 95 0.6N
V8 11 95 -14
RH 117 102 10M
LG 4 1 7N
.ENDS
*******
*SRC=BSP-295;BSP-295;MOSFETs N;Siemens;50V 1800mA 0.3 Ohm
*SYM=N-MOSFET
.SUBCKT BSP-295 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 5.5M
RS 5 76 130M
D295 76 95 DREV
.MODEL DREV D CJO=0.2N RS=50M TT=30N IS=300P BV=50
M295 86 11 76 76 MBUZ
.MODEL MBUZ NMOS VTO=1.38 KP=1.27
M2 11 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 11 8 8 MSW
COX 11 8 0.8N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.287N M=0.539 VJ=0.985
CGS 76 11 0.26N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-15.51 KP=1.7
LG 4 1 7N
.ENDS
*******
*SRC=BSP-299;BSP-299;MOSFETs N;Siemens;500V 400mA 4 Ohm
*SYM=N-MOSFET
.SUBCKT BSP-299 1 2 3
LS 5 2 7N
LD 97 3 5N
RG 95 96 8.9
RS 5 76 0.383
D299 76 97 DREV
.MODEL DREV D CJO=0.13N RS=20M TT=150N IS=300P BV=500
M299 99 96 76 76 MBUZ
.MODEL MBUZ NMOS VTO=3.946 KP=0.973
M2 96 99 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=.5
M3 99 96 8 8 MSW
COX 96 8 0.6N
DGD 8 99 DCGD
.MODEL DCGD D CJO=0.098N M=0.57 VJ=1.032
CGS 76 96 0.32N
MRDR 99 99 97 99 MVRD
.MODEL MVRD NMOS VTO=-27.83 KP=0.0138
LG 95 1 7N
.ENDS
*******
*SRC=BSP-315;BSP-315;MOSFETs P;Siemens;50V 1100mA 0.8 Ohm
*SYM=P-MOSFET
.SUBCKT BSP-315 1 2 3
LS 5 2 7N
LD 102 3 5N
RG 4 95 5.5M
RS 5 76 252M
D315 102 76 DREV
.MODEL DREV D CJO=300P RS=20M TT=100N IS=300P BV=50
M315 102 95 76 76 MBUZ
.MODEL MBUZ PMOS VTO=-1.246 KP=0.37
M2 11 102 8 8 MSW
.MODEL MSW PMOS VTO=-0.001 KP=5
M3 102 11 8 8 MSW
COX 11 8 180P
DGD 102 8 DCGD
.MODEL DCGD D CJO=527P M=0.605 VJ=0.913
CGS 76 95 215P
VGC 11 95 -20
* BESCHREIBT EINE IMPLANTIERTE LADUNG (VERSCHIEBT DIE EINSATZSPANNUNG)
LG 4 1 7N
.ENDS
*******
*SRC=BSP-316;BSP-316;MOSFETs P;Siemens;100V 650mA 2.2 Ohm
*SYM=P-MOSFET
.SUBCKT BSP-316 1 2 3
LS 5 2 7N
LD 117 3 5N
RG 4 95 18.4
RS 5 76 485M
D316 117 76 DREV
.MODEL DREV D CJO=250P RS=20M TT=100N IS=300P BV=100
M316 116 95 76 76 MBUZ
.MODEL MBUZ PMOS VTO=-1.415 KP=0.413
M2 11 116 8 8 MSW
.MODEL MSW PMOS VTO=-0.001 KP=.5
M3 116 11 8 8 MSW
COX 11 8 0.15N
DGD 116 8 DCGD
.MODEL DCGD D CJO=405P M=0.725 VJ=1.021
CGS 76 95 0.31N
R15 116 117 280M
V8 11 95 -12
LG 4 1 7N
.ENDS
*******
*SRC=BSP-317;BSP-317;MOSFETs P;Siemens;200V 370mA 6 Ohm
*SYM=P-MOSFET
.SUBCKT BSP-317 1 2 3
LS 5 2 7N
LD 86 3 5N
RG 4 95 5.5M
RS 5 76 322M
D317 86 76 DREV
.MODEL DREV D CJO=100P RS=20M TT=60N IS=300P BV=200
M317 102 95 76 76 MBUZ
.MODEL MBUZ PMOS VTO=-1.419 KP=0.321
M2 11 102 8 8 MSW
.MODEL MSW PMOS VTO=-0.001 KP=.5
M3 102 11 8 8 MSW
COX 11 8 340P
DGD 102 8 DCGD
.MODEL DCGD D CJO=98P M=0.477 VJ=0.971
CGS 76 95 225P
VGC 11 95 -13
* BESCHREIBT EINE IMPLANTIERTE LADUNG (VERSCHIEBT DIE EINSATZSPANNUNG)
MHELP 86 102 102 102 MVRD
.MODEL MVRD PMOS VTO=57.7 KP=7M
LG 4 1 7N
.ENDS
*******
*SRC=BSP-318;BSP-318;MOSFETs N;Siemens;60V 2600mA 0.15 Ohm
*SYM=N-MOSFET
.SUBCKT BSP-318 1 2 3
LS 5 2 7N
LD 97 3 5N
RG 95 99 8.2
RS 5 76 0.066
D318 76 97 DREV
.MODEL DREV D CJO=0.55N RS=20M TT=150N IS=300P BV=60
M318 98 99 76 76 MBUZ
.MODEL MBUZ NMOS VTO=2.286 KP=14.9
M2 87 98 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=.5
M3 98 87 8 8 MSW
COX 87 8 0.6N
DGD 8 98 DCGD
.MODEL DCGD D CJO=343P M=0.505 VJ=1.032
CGS 76 99 0.55N
VGC 87 99 2
RD 98 97 0.045
LG 95 1 7N
.ENDS
*******
*SRC=BSP-319;BSP-319;MOSFETs N;Siemens;50V 3800mA 0.07 Ohm
*SYM=N-MOSFET
.SUBCKT BSP-319 1 2 3
LS 5 2 7N
LD 97 3 5N
RG 95 99 15.5
RS 5 76 0.051
D318 76 97 DREV
.MODEL DREV D CJO=0.65N RS=20M TT=150N IS=300P BV=50
M319 98 99 76 76 MBUZ
.MODEL MBUZ NMOS VTO=1.851 KP=31.25
M2 87 98 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=.5
M3 98 87 8 8 MSW
COX 87 8 0.55N
DGD 8 98 DCGD
.MODEL DCGD D CJO=435P M=0.433 VJ=1.004
CGS 76 99 0.8N
VGC 87 99 4
RD 98 97 0.005
LG 95 1 7N
.ENDS
*******
*SRC=BSP-88;BSP-88;MOSFETs N;Siemens;240V 320mA 8 Ohm
*SYM=N-MOSFET
.SUBCKT BSP-88 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 5.5M
RS 5 76 183M
D88 76 95 DREV
.MODEL DREV D CJO=0.05N RS=20M TT=20N IS=300P BV=240
M88 86 11 76 76 MBUZ
.MODEL MBUZ NMOS VTO=0.849 KP=0.149
M2 11 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 11 8 8 MSW
COX 11 8 0.025N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.025N M=0.454 VJ=0.974
CGS 76 11 0.08N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-8.953 KP=0.0305
LG 4 1 7N
.ENDS
*******
*SRC=BSP-89;BSP-89;MOSFETs N;Siemens;240V 360mA 6 Ohm
*SYM=N-MOSFET
.SUBCKT BSP-89 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 5.5M
RS 5 76 249M
DSP89 76 95 DREV
.MODEL DREV D CJO=0.025N RS=20M TT=30N IS=300P BV=240
MSP89 86 11 76 98 MBUZ
.MODEL MBUZ NMOS VTO=1.487 KP=0.225
M2 96 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 96 8 8 MSW
COX 96 8 0.2N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.04N M=0.495 VJ=0.98
CGS 76 11 0.1N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-11.76 KP=0.039
VGC 96 11 -3
LG 4 1 7N
.ENDS
*******
*SRC=BSS-100;BSS-100;MOSFETs N;Siemens;100V 220mA 6 Ohm
*SYM=N-MOSFET
.SUBCKT BSS-100 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 1 76 5.5M
RS 5 100 796M
D100 100 95 DREV
.MODEL DREV D CJO=0.025N RS=20M TT=50N IS=300P BV=100
M100 86 11 100 100 MBUZ
.MODEL MBUZ NMOS VTO=1.162 KP=0.157
M2 99 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 99 8 8 MSW
COX 99 8 0.025N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.013N M=0.506 VJ=0.997
CGS 100 11 0.03N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-5.72 KP=0.07
V7 99 11 4.5
LG 76 11 7N
.ENDS
*******
*SRC=BSS-101;BSS-101;MOSFETs N;Siemens;240V 130mA 16 Ohm
*SYM=N-MOSFET
.SUBCKT BSS-101 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 5.5M
RS 5 76 213M
D101 76 95 DREV
.MODEL DREV D CJO=0.017N RS=20M TT=20N IS=300P BV=240
M101 86 11 76 76 MBUZ
.MODEL MBUZ NMOS VTO=1.448 KP=0.104
M2 11 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 11 8 8 MSW
COX 11 8 0.09N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.012N M=0.383 VJ=0.948
CGS 76 11 0.055N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-9.707 KP=.015
LG 4 1 7N
.ENDS
*******
*SRC=BSS-110;BSS-110;MOSFETs P;Siemens;50V 170mA 10 Ohm
*SYM=P-MOSFET
.SUBCKT BSS-110 1 2 3
LS 5 2 7N
LD 86 3 5N
RG 4 11 5.5M
RS 5 76 3246M
D110 86 76 DREV
.MODEL DREV D CJO=0.035N RS=20M TT=60N IS=300P BV=50
M110 86 11 76 76 MBUZ
.MODEL MBUZ PMOS VTO=-1.462 KP=0.04
M2 11 86 8 8 MSW
.MODEL MSW PMOS VTO=-0.001 KP=5
M3 86 11 8 8 MSW
COX 11 8 0.183N
DGD 86 8 DCGD
.MODEL DCGD D CJO=0.183N M=0.439 VJ=1.097
CGS 76 11 0.02N
LG 4 1 7N
.ENDS
*******
*SRC=BSS-119;BSS-119;MOSFETs N;Siemens;100V 170mA 6 Ohm
*SYM=N-MOSFET
.SUBCKT BSS-119 1 2 3
LS 5 2 7N
LD 97 3 5N
RG 95 99 59
RS 5 76 1.045
D119 76 97 DREV
.MODEL DREV D CJO=0.025N RS=20M TT=30N IS=300P BV=100
M119 98 99 76 76 MBUZ
.MODEL MBUZ NMOS VTO=1.999 KP=0.134
M2 87 98 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=.5
M3 98 87 8 8 MSW
COX 87 8 0.025N
DGD 8 98 DCGD
.MODEL DCGD D CJO=22.4P M=0.688 VJ=1.082
CGS 76 99 0.039N
VGC 87 99 2
MHELP 98 98 97 98 MVRD
.MODEL MVRD NMOS VTO=-4.859 KP=0.073
LG 95 1 7N
.ENDS
*******
*SRC=BSS-125;BSS-125;MOSFETs N;Siemens;600V 100mA 45 Ohm
*SYM=N-MOSFET
.SUBCKT BSS-125 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 5.5M
RS 5 76 160M
D125 76 95 DREV
.MODEL DREV D CJO=0.02N RS=50M TT=150N IS=300P BV=600
M125 86 11 76 76 MBUZ
.MODEL MBUZ NMOS VTO=2.012 KP=0.168
M2 11 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=.5
M3 86 11 8 8 MSW
COX 11 8 0.1N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.011N M=0.371 VJ=0.969
CGS 76 11 0.095N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-17.18 KP=0.00215
LG 4 1 7N
.ENDS
*******
*SRC=BSS-129;BSS-129;MOSFETs N;Depletion;240V 150mA 20 Ohm Siemens
*SYM=DEPL-MOS
.SUBCKT BSS-129 1 2 3
LS 5 2 7N
LD 83 3 5N
RG 4 11 5
RS 5 76 1M
DBSS129 76 83 DREV
.MODEL DREV D CJO=30P RS=20M TT=50N IS=30P BV=240
+
MBSS129 90 11 76 76 MBUZ
.MODEL MBUZ NMOS VTO=-1.30 KP=0.165
M2 11 90 8 8 MSW
.MODEL MSW NMOS VTO=5 KP=25
+
M3 90 11 8 8 MSW
COX 11 8 66P
DGD 8 90 DCGD
.MODEL DCGD D CJO=13.57P M=0.475 VJ=1.062
CGS 76 11 25P
RDR 90 83 2
LG 4 1 7N
.ENDS
*******
*SRC=BSS-135;BSS-135;MOSFETs N;Depletion;600V 80mA 60 Ohm Siemens
*SYM=DEPL-MOS
.SUBCKT BSS-135 1 2 3
LS 5 2 7N
LD 97 3 5N
RG 95 99 5.5M
RS 5 76 392M
D135 76 97 DREV
.MODEL DREV D CJO=0.04N RS=20M TT=50N IS=300P BV=600
M135 98 99 76 76 MBUZ
.MODEL MBUZ NMOS VTO=-1.164 KP=0.159
M2 87 98 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 98 87 8 8 MSW
COX 87 8 0.025N
DGD 8 98 DCGD
.MODEL DCGD D CJO=37P M=0.833 VJ=1.147
CGS 76 99 0.065N
VGC 87 99 8
MHELP 98 98 97 98 MVRD
.MODEL MVRD NMOS VTO=-17.03 KP=0.0018
LG 95 1 7N
.ENDS
*******
*SRC=BSS-138;BSS-138;MOSFETs N;Siemens;50V 220mA 3.5 Ohm
*SYM=N-MOSFET
.SUBCKT BSS-138 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 5.5M
RS 5 76 871M
D138 76 95 DREV
.MODEL DREV D CJO=0.06N RS=20M TT=15N IS=300P BV=50
M138 86 11 76 96 MBUZ
.MODEL MBUZ NMOS VTO=1.281 KP=0.186
M2 11 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 11 8 8 MSW
COX 11 8 0.08N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.062N M=0.791 VJ=1.174
CGS 76 11 0.03N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-48.9 KP=.045
LG 4 1 7N
.ENDS
*******
*SRC=BSS-145;BSS-145;MOSFETs N;Siemens;65V 220mA 3.5 Ohm
*SYM=N-MOSFET
.SUBCKT BSS-145 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 5.5M
RS 5 96 385M
D145 96 95 DREV
.MODEL DREV D CJO=0.04N RS=20M TT=70N IS=300P BV=65
M145 86 11 96 96 MBUZ
.MODEL MBUZ NMOS VTO=1.93 KP=0.145
M2 11 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 11 8 8 MSW
COX 11 8 0.1N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.044N M=0.857 VJ=1.077
CGS 96 11 0.059N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-70.541 KP=0.034
LG 4 1 7N
.ENDS
*******
*SRC=BSS-229;BSS-229;MOSFETs N;Depletion;250V 70mA 100 Ohm Siemens
*SYM=DEPL-MOS
.SUBCKT BSS-229 1 2 3
LS 5 2 7N
LD 97 3 5N
RG 95 99 40
RS 5 76 349M
D229 76 97 DREV
.MODEL DREV D CJO=0.02N RS=20M TT=50N IS=300P BV=250
M229 98 99 76 76 MBUZ
.MODEL MBUZ NMOS VTO=-0.85 KP=0.107
M2 87 98 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=.5
M3 98 87 8 8 MSW
COX 87 8 0.01N
DGD 8 98 DCGD
.MODEL DCGD D CJO=8P M=0.545 VJ=1.004
CGS 76 99 0.07N
VGC 87 99 5
MHELP 98 98 97 98 MVRD
.MODEL MVRD NMOS VTO=-8.608 KP=0.0046
LG 95 1 7N
.ENDS
*******
*SRC=BSS-295;BSS-295;MOSFETs N;Siemens;50V 1400mA 0.3 Ohm
*SYM=N-MOSFET
.SUBCKT BSS-295 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 1 76 5.5M
RS 5 100 137M
D295 100 95 DREV
.MODEL DREV D CJO=0.25N RS=20M TT=300N IS=300P BV=50
M295 86 11 100 100 MBUZ
.MODEL MBUZ NMOS VTO=1.174 KP=0.924
M2 99 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 99 8 8 MSW
COX 99 8 0.55N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.167N M=0.522 VJ=0.996
CGS 100 11 0.33N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-7.196 KP=5
V7 99 11 3.5
LG 76 11 7N
.ENDS
*******
*SRC=BSS-296;BSS-296;MOSFETs N;Siemens;100V 800mA 0.8 Ohm
*SYM=N-MOSFET
.SUBCKT BSS-296 1 2 3
LS 5 2 7N
LD 97 3 5N
RG 95 99 18.4
RS 5 76 0.163
D296 76 97 DREV
.MODEL DREV D CJO=0.3N RS=20M TT=150N IS=300P BV=100
M296 98 99 76 76 MBUZ
.MODEL MBUZ NMOS VTO=1.28 KP=0.82
M2 87 98 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=.5
M3 98 87 8 8 MSW
COX 87 8 0.15N
DGD 8 98 DCGD
.MODEL DCGD D CJO=83.8P M=0.518 VJ=0.994
CGS 76 99 0.37N
VGC 87 99 4
MHELP 98 98 97 98 MVRD
.MODEL MVRD NMOS VTO=-8.21 KP=0.29
LG 95 1 7N
.ENDS
*******
*SRC=BSS-297;BSS-297;MOSFETs N;Siemens;200V 480mA 2 Ohm
*SYM=N-MOSFET
.SUBCKT BSS-297 1 2 3
LS 5 2 7N
LD 97 3 5N
RG 95 99 20.8
RS 5 76 0.092
D297 76 97 DREV
.MODEL DREV D CJO=0.22N RS=20M TT=150N IS=300P BV=200
M297 98 99 76 76 MBUZ
.MODEL MBUZ NMOS VTO=1.47 KP=0.998
M2 87 98 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=.5
M3 98 87 8 8 MSW
COX 87 8 0.12N
DGD 8 98 DCGD
.MODEL DCGD D CJO=65.74P M=0.533 VJ=0.989
CGS 76 99 0.32N
VGC 87 99 4
MHELP 98 98 97 98 MVRD
.MODEL MVRD NMOS VTO=-9.5 KP=0.11
LG 95 1 7N
.ENDS
*******
*SRC=BSS-84;BSS-84;MOSFETs P;Siemens;50V 130mA 10 Ohm
*SYM=P-MOSFET
.SUBCKT BSS-84 1 2 3
LS 5 2 7N
LD 87 3 5N
RG 4 11 5.5M
RS 5 76 3759M
D84 87 76 DREV
.MODEL DREV D CJO=0.04N RS=20M TT=45N IS=300P BV=50
M84 87 11 76 76 MBUZ
.MODEL MBUZ PMOS VTO=-1.585 KP=0.041
M2 11 87 8 8 MSW
.MODEL MSW PMOS VTO=-0.001 KP=5
M3 87 11 8 8 MSW
COX 11 8 0.1N
DGD 87 8 DCGD
.MODEL DCGD D CJO=0.183N M=0.439 VJ=1.097
CGS 76 11 0.021N
LG 4 1 7N
.ENDS
*******
*SRC=BSS-87;BSS-87;MOSFETs N;Siemens;240V 290mA 6 Ohm
*SYM=N-MOSFET
.SUBCKT BSS-87 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 5.5M
RS 5 76 193M
D87 76 95 DREV
.MODEL DREV D CJO=0.03N RS=20M TT=30N IS=300P BV=240
M87 86 11 76 76 MBUZ
.MODEL MBUZ NMOS VTO=1.475 KP=0.212
M2 11 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 11 8 8 MSW
COX 11 8 0.3N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.032N M=0.448 VJ=0.974
CGS 76 11 0.1N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-11.44 KP=0.026
LG 4 1 7N
.ENDS
*******
*SRC=BSS-88;BSS-88;MOSFETs N;Siemens;240V 250mA 8 Ohm
*SYM=N-MOSFET
.SUBCKT BSS-88 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 1 76 5.5M
RS 5 100 242M
D88 100 95 DREV
.MODEL DREV D CJO=0.05N RS=20M TT=20N IS=300P BV=240
M88 86 11 100 100 MBUZ
.MODEL MBUZ NMOS VTO=0.782 KP=0.195
M2 99 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 99 8 8 MSW
COX 99 8 0.06N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.25N M=0.44 VJ=0.968
CGS 100 11 0.08N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-8.481 KP=0.037
V7 99 11 5.5
LG 76 11 7N
.ENDS
*******
*SRC=BSS-89;BSS-89;MOSFETs N;Siemens;240V 290mA 6 Ohm
*SYM=N-MOSFET
.SUBCKT BSS-89 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 5.5M
RS 5 76 164M
DSS89 76 95 DREV
.MODEL DREV D CJO=0.04N RS=20M TT=30N IS=300P BV=240
MSS89 86 11 76 76 MBUZ
.MODEL MBUZ NMOS VTO=1.651 KP=0.227
M2 11 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 11 8 8 MSW
COX 11 8 0.3N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.035N M=0.493 VJ=0.983
CGS 76 11 0.1N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-10.86 KP=0.032
LG 4 1 7N
.ENDS
*******
*SRC=BSS-92_1;BSS-92_1;MOSFETs P;Siemens;240V 150mA 20 Ohm
*SYM=P-MOSFET
.SUBCKT BSS-92_1 1 2 3
LS 5 2 7N
LD 97 3 5N
RG 95 99 5.5M
RS 5 76 1084M
D92 97 76 DREV
.MODEL DREV D CJO=0.03N RS=20M TT=35N IS=300P BV=240
M92 98 99 76 76 MBUZ
.MODEL MBUZ PMOS VTO=-1.721 KP=0.071
M2 87 98 8 8 MSW
.MODEL MSW PMOS VTO=-0.001 KP=5
M3 98 87 8 8 MSW
COX 87 8 0.2N
DGD 98 8 DCGD
.MODEL DCGD D CJO=59P M=0.542 VJ=0.979
CGS 76 99 0.085N
VGC 87 99 -20
MHELP 98 98 97 98 MVRD
.MODEL MVRD PMOS VTO=31.5 KP=0.006
LG 95 1 7N
.ENDS
*******
*SRC=BSS-92;BSS-92;MOSFETs P;Siemens;240V 150mA 20 Ohm
*SYM=P-MOSFET
.SUBCKT BSS-92 1 2 3
LS 5 2 7N
LD 97 3 5N
RG 86 87 5.5M
RS 5 76 886M
D92 97 76 DREV
.MODEL DREV D CJO=0.05N RS=20M TT=35N IS=300P BV=240
M92 98 87 76 76 MBUZ
.MODEL MBUZ PMOS VTO=-1.489 KP=0.049
M2 87 98 8 8 MSW
.MODEL MSW PMOS VTO=-0.001 KP=5
M3 98 87 8 8 MSW
COX 87 8 0.15N
DGD 98 8 DCGD
.MODEL DCGD D CJO=120P M=0601 VJ=0.47
CGS 76 87 0.06N
MHELP 98 98 97 98 MVRD
.MODEL MVRD PMOS VTO=20.07 KP=0.008
LG 86 1 7N
.ENDS
*******
*SRC=BSS-98;BSS-98;MOSFETs N;Siemens;50V 300mA 3.5 Ohm
*SYM=N-MOSFET
.SUBCKT BSS-98 1 2 3
LS 5 2 7N
LD 95 3 5N
RG 4 11 5.5M
RS 5 76 663M
D98 76 95 DREV
.MODEL DREV D CJO=0.03N RS=20M TT=2.2N IS=300P BV=50
M98 86 11 76 76 MBUZ
.MODEL MBUZ NMOS VTO=1.099 KP=0.15
M2 11 86 8 8 MSW
.MODEL MSW NMOS VTO=0.001 KP=5
M3 86 11 8 8 MSW
COX 11 8 0.062N
DGD 8 86 DCGD
.MODEL DCGD D CJO=0.062N M=0.791 VJ=1.174
CGS 76 11 0.03N
MRDR 86 86 95 86 MVRD
.MODEL MVRD NMOS VTO=-48.9 KP=.2
LG 4 1 7N
.ENDS
*******

